US05589474
(c) 4-Trifluoromethyl-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione
Phosphorus pentasulphide (0.6 g, 2.5 mmol) was added to a stirred solution of 4-trifluoromethyl-9,10-dihydrodibenzo[b,f][1,4]thiazepin-11-one (0.59 g, 2 mmol) in pyridine (20 ml). The mixture was heated under reflux for 6.5 hr and then at room temperature overnight before hot water (40 ml) added. Filtration and recrystallisation from ethanol gave the title compound as fine yellow needles (0.503 g, m.p. 265°-267° C., Rf 0.65, petrol/EtOAc 1:1).

reactant | Phosphorus pentasulphide | 2.5 mmol, 0.6 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 4-trifluoromethyl-9,10-dihydrodibenzo[b,f][1,4]thiazepin-11-one | 2 mmol, 0.59 g | FC(C1=CC=CC=2C(NC3=C(SC21)C=CCC3)=O)(F)F | C14H10F3NOS
reactant | water | 40 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-Trifluoromethyl-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione | 0.503 g | FC(C1=CC=CC=2C(NC3=C(SC21)C=CC=C3)=S)(F)F | C14H8F3NS2
